US05138042
Operating as described in Example 5, the treatment of 2-(1,4-dimethoxy-3-naphthylcarbonyl)-5-(2-methyldioxolan-2-yl)-6-oxa-bicyclo[3,2,1]octan-7-one, prepared as described in Example 10, with a solution of hydrogen chloride in methanol afforded 1-(1,4-dimethoxy-3-naphthylcarbonyl)-2-methoxycarbonyl-4-acetyl-4-hydroxy-cyclohexane (X, R=H) in almost quantitative yield. m/z 414 (M+.): IR (film): 3460 cm-1 (OH), 1730 cm-1 (C=O ester), 1710 cm-1 (C=O ketone) and 1670 cm-1 (C=O, benzylic ketone). PMR (CDCl3): inter alia: δ2.3 (s, CH3CO), 2.9-3.6 (m, two H), 3.7-3.9 (s, three OCH3), 6.9 (s, aromatic H) and 7.4-8.4 (m, four aromatic H).

reactant | 2-(1,4-dimethoxy-3-naphthylcarbonyl)-5-(2-methyldioxolan-2-yl)-6-oxa-bicyclo[3,2,1]octan-7-one | COC1=CC(=C(C2=CC=CC=C12)OC)C(=O)C1C2C(OC(CC1)(C2)C2(OCCO2)C)=O | C24H26O7
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | 1-(1,4-dimethoxy-3-naphthylcarbonyl)-2-methoxycarbonyl-4-acetyl-4-hydroxy-cyclohexane | quantitative yield | COC1=CC(=C(C2=CC=CC=C12)OC)C(=O)C1C(CC(CC1)(O)C(C)=O)C(=O)OC | C23H26O7
